US07700641B2
Synthesis of 7-methoxy-1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one
To a solution of 7-hydroxy-1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one (0.05 g, 0.14 mmol) in THF (10.0 mL) was added sodium hydride (0.01 mg, 0.21 mmol) at 0° C. The reaction mixture was stirred for half an hour followed by the addition of iodomethane (0.50 mL). The mixture was stirred at ambient temperature for two hours, then poured into water (100 mL), and extracted with ethyl acetate (100 mL). The organic layer was washed with water, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to flash column chromatography to afford the title compound (0.03 g, 57%) as an oil: 1H NMR (300 MHz, CDCl3) δ 7.26-7.18 (m, 1H), 6.98-6.82 (m, 4H), 6.10 (s, 1H), 5.88 (s, 2H), 5.26 t, 1H), 3.88-3.63 (m, 2H), 3.45 (s, 3H), 2.71-2.54 (m, 2H), 1.80-1.65 (m, 2H), 1.45-1.29 (m, 4H), 0.90 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 178.3, 148.9, 148.4, 142.4, 136.8, 136.6, 135.1, 128.1, 123.1, 122.6, 108.5, 105.0, 103.2, 101.5, 82.7, 57.9, 55.6, 43.4, 40.3, 29.1, 27.2, 22.4, 14.0: MS (ES+) m/z 402.4 (M+23).

reactant | 7-hydroxy-1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one | 0.14 mmol, 0.05 g | OC1CC2(C(N(C3=CC=CC=C23)CCCCC)=O)C2=CC3=C(OCO3)C=C12 | C22H23NO4
reactant | sodium hydride | 0.21 mmol, 0.01 mg | [H-].[Na+]
reactant | iodomethane | 0.50 mL | IC | CH3I
reactant | water | 100 mL | O | H2O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 7-methoxy-1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one | 0.03 g, 57% | COC1CC2(C(N(C3=CC=CC=C23)CCCCC)=O)C2=CC3=C(OCO3)C=C12 | C23H25NO4
